US08293735B2
4-(3-Fluoroazetidin-1-yl)-piperidine
Prepared according to the method used in the preparation of 4-(3,3-difluoroazetidin-1-yl)-piperidine using 3-fluoroazetidine in place of 3,3-difluoroazetidine hydrochloride. The title compound was obtained as a colourless oil (180 mg, 39%).

reactant | 4-(3,3-difluoroazetidin-1-yl)-piperidine | FC1(CN(C1)C1CCNCC1)F | C8H14F2N2
reactant | 3-fluoroazetidine | FC1CNC1 | C3H6FN
product | 4-(3-Fluoroazetidin-1-yl)-piperidine | FC1CN(C1)C1CCNCC1 | C8H15FN2
